*
*|DSPF 1.5
*
*|DATE "Thu Mar 21 13:26:29 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "22.1.0-p089 Linux 64 bit - (Thu Jan 19 11:47:08 PST 2023)"
*|DESIGN "ICGX1"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 25
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /vols/wfo_devel/projects/reference_SKY130/tech/sky130_release_0.0.2/quantus/extraction/typical 
** caps2d version: 10
*
.GLOBAL VDD VSS
*
.SUBCKT  ICGX1 CK E ECK
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CK 4.72484e-16
*|P (CK X 0 0.9420 1.4340)
*|I (MX39/M0#g MX39/M0 g X 0 0.4750 0.8025)
*|I (MX40/M0#g MX40/M0 g X 0 0.4750 3.2375)
*|S (CK#7 0.4050 1.2900)
*|S (CK#8 0.8350 1.2900)
C1 MX40/M0#g VSS 5.75541e-17
C2 MX39/M0#g VSS 4.53938e-17
C3 CK#8 VSS 2.92236e-16
C4 CK#7 VSS 7.73002e-17
Rg1 MX40/M0#g CK#7 601.180237 $W=0.15
Rg2 CK#7 MX39/M0#g 132.033569 $W=0.15
Rf3 CK#8 CK#7 47.376472 $W=0.17
Re4 CK#8 CK 152.054550 $W=0.33
*
*|NET E 4.08523e-16
*|P (E X 0 0.8920 2.6090)
*|I (MX30/M0#g MX30/M0 g X 0 0.9050 0.8025)
*|I (MM1#g MM1 g X 0 0.9050 3.2375)
*|S (E#7 0.9150 2.6500)
*|S (E#9 0.9150 2.6500)
C5 MM1#g VSS 4.32262e-17
C6 MX30/M0#g VSS 4.33462e-17
C7 E#7 VSS 1.19958e-16
C8 E VSS 2.01992e-16
Rg5 MM1#g E#7 169.406158 $W=0.15
Rg6 E#7 MX30/M0#g 574.306274 $W=0.15
Rf7 E#7 E#9 15.000000 $W=0.17
Re8 E E#9 152.019714 $W=0.26
*
*|NET ECK 5.60422e-16
*|P (ECK X 0 5.9920 2.3230)
*|I (MX42/M0#d MX42/M0 d X 0 5.7955 0.9700)
*|I (MX41/M0#d MX41/M0 d X 0 5.8655 2.9850)
*|S (ECK#2 5.9350 0.7550)
*|S (ECK#3 6.0050 3.1850)
C9 MX41/M0#d VSS 8.58913e-17
C10 ECK#2 VSS 2.26601e-16
C11 ECK#3 VSS 1.25166e-16
C12 ECK VSS 1.22763e-16
Rf9 MX42/M0#d ECK#2 23.688236 $W=0.17
Rf10 ECK#3 MX41/M0#d 10.224490 $W=0.49
Re11 ECK ECK#2 152.746628 $W=0.26
Re12 ECK ECK#3 76.408638 $W=0.26
*
*|NET 5 1.71796e-15
*|I (MX45/M0#g MX45/M0 g X 0 1.3350 0.8025)
*|I (MX32/M0#d MX32/M0 d X 0 2.7005 0.8025)
*|I (MM0#g MM0 g X 0 5.2450 0.8025)
*|I (MX36/M0#d MX36/M0 d X 0 2.7005 3.2375)
*|I (MM2#g MM2 g X 0 1.7650 3.2375)
*|I (MM3#g MM3 g X 0 5.3150 3.2375)
*|S (5 5.3150 3.2375)
*|S (5#13 1.3450 1.2900)
*|S (5#14 1.7550 2.4800)
*|S (5#15 5.3050 2.0600)
*|S (5#17 2.7600 2.6500)
*|S (5#20 2.7600 1.2900)
C13 MM2#g VSS 4.11378e-17
C14 MX36/M0#d VSS 1.01559e-16
C15 MM0#g VSS 4.73151e-17
C16 MX32/M0#d VSS 8.25077e-17
C17 MX45/M0#g VSS 4.55998e-17
C18 5#20 VSS 5.37206e-16
C19 5#17 VSS 2.1365e-16
C20 5#13 VSS 1.72757e-16
C21 5#14 VSS 1.16587e-16
C22 5#15 VSS 3.06875e-16
C23 5 VSS 5.27648e-17
Rg13 MX45/M0#g 5#13 133.085556 $W=0.15
Rg14 MM2#g 5#14 219.845551 $W=0.15
Rg15 5 5#15 359.529083 $W=0.15
Rg16 5#15 MM0#g 389.959259 $W=0.15
Rf17 MX36/M0#d 5#17 59.047058 $W=0.17
Rf18 5#17 5#14 97.822311 $W=0.17
Rf19 5#15 5#20 242.006927 $W=0.17
Rf20 5#20 MX32/M0#d 51.894119 $W=0.17
Rf21 5#20 5#13 121.541176 $W=0.17
Re22 5#17 5#20 305.131958 $W=0.14
Rmw23 MM3#g 5 0.001000 $W=1000000
*
*|NET 8 1.41803e-15
*|I (MX34/M0#g MX34/M0 g X 0 4.8150 0.8025)
*|I (MX33/M0#d MX33/M0 d X 0 3.6905 0.8025)
*|I (MX31/M0#g MX31/M0 g X 0 2.1950 0.8025)
*|I (MX38/M0#g MX38/M0 g X 0 4.8850 3.2375)
*|I (MX37/M0#d MX37/M0 d X 0 3.6905 3.2375)
*|I (MX35/M0#g MX35/M0 g X 0 2.1950 3.2375)
*|S (8 2.1950 3.2375)
*|S (8#13 2.1950 1.6300)
*|S (8#14 4.7550 2.4500)
*|S (8#16 3.8300 3.0900)
*|S (8#17 3.8300 0.8500)
*|S (8#20 3.8300 1.9650)
*|S (8#23 3.8300 1.9650)
C24 MX38/M0#g VSS 5.11936e-17
C25 MX31/M0#g VSS 3.78495e-17
C26 MX33/M0#d VSS 5.95897e-17
C27 MX34/M0#g VSS 4.07366e-17
C28 8#17 VSS 1.38705e-16
C29 8#20 VSS 4.47181e-16
C30 8#16 VSS 1.97854e-16
C31 8#13 VSS 2.35524e-16
C32 8#14 VSS 1.62442e-16
C33 8 VSS 4.69528e-17
Rg24 8 8#13 497.702423 $W=0.15
Rg25 8#13 MX31/M0#g 247.062408 $W=0.15
Rg26 MX38/M0#g 8#14 223.421173 $W=0.15
Rg27 8#14 MX34/M0#g 499.767822 $W=0.15
Rf28 MX37/M0#d 8#16 25.917646 $W=0.17
Rf29 8#17 MX33/M0#d 18.764706 $W=0.17
Rf30 8#14 8#20 109.868156 $W=0.17
Rf31 8#20 8#13 152.032867 $W=0.17
Re32 8#16 8#23 152.611420 $W=0.23
Re33 8#23 8#17 152.605972 $W=0.23
Re34 8#20 8#23 152.000000 $W=0.0289
Rmw35 MX35/M0#g 8 0.001000 $W=1000000
*
*|NET 10 1.0387e-15
*|I (MX44/M0#g MX44/M0 g X 0 1.7650 0.8025)
*|I (MX39/M0#d MX39/M0 d X 0 0.3995 0.8025)
*|I (MX32/M0#g MX32/M0 g X 0 2.6250 0.8025)
*|I (MX43/M0#g MX43/M0 g X 0 1.3350 3.2375)
*|I (MX40/M0#d MX40/M0 d X 0 0.3995 3.2375)
*|I (MX36/M0#g MX36/M0 g X 0 2.6250 3.2375)
*|S (10 2.6250 3.2375)
*|S (10#13 1.5500 1.9700)
*|S (10#14 2.6600 1.9700)
*|S (10#16 0.2600 3.0900)
*|S (10#17 0.2600 0.8500)
*|S (10#20 1.5500 1.9700)
*|S (10#21 0.2600 1.9700)
C34 MX43/M0#g VSS 4.75842e-17
C35 MX32/M0#g VSS 3.67166e-17
C36 MX39/M0#d VSS 6.51421e-17
C37 MX44/M0#g VSS 4.30864e-17
C38 10#17 VSS 1.35432e-16
C39 10#21 VSS 2.02031e-16
C40 10#16 VSS 1.86636e-16
C41 10#13 VSS 1.59316e-16
C42 10#14 VSS 1.19139e-16
C43 10 VSS 4.36207e-17
Rg36 MX44/M0#g 10#13 386.662750 $W=0.15
Rg37 10#13 MX43/M0#g 418.796082 $W=0.15
Rg38 10 10#14 383.725555 $W=0.15
Rg39 10#14 MX32/M0#g 351.592224 $W=0.15
Rf40 MX40/M0#d 10#16 25.917646 $W=0.17
Rf41 10#17 MX39/M0#d 18.764706 $W=0.17
Rf42 10#14 10#20 98.576469 $W=0.17
Rf43 10#20 10#21 249.129410 $W=0.17
Rf44 10#13 10#20 15.000000 $W=0.0289
Re45 10#16 10#21 152.608688 $W=0.23
Re46 10#21 10#17 152.608688 $W=0.23
Rmw47 MX36/M0#g 10 0.001000 $W=1000000
*
*|NET 12 1.84376e-15
*|I (MX45/M0#d MX45/M0 d X 0 1.4105 0.8025)
*|I (MX44/M0#d MX44/M0 d X 0 1.6895 0.8025)
*|I (MX33/M0#g MX33/M0 g X 0 3.6150 0.8025)
*|I (MX43/M0#d MX43/M0 d X 0 1.4105 3.2375)
*|I (MX37/M0#g MX37/M0 g X 0 3.6150 3.2375)
*|I (MM2#s MM2 s X 0 1.6895 3.2375)
*|S (12 3.6150 3.2375)
*|S (12#7 3.6150 2.3100)
*|S (12#8 3.4900 2.3100)
*|S (12#10 1.5500 3.0900)
*|S (12#11 1.5500 0.8500)
*|S (12#14 3.3450 2.3100)
C44 MX33/M0#g VSS 5.91988e-17
C45 MX45/M0#d VSS 8.59128e-17
C46 12#11 VSS 4.13942e-16
C47 12#10 VSS 4.46908e-16
C48 12#14 VSS 7.76904e-16
C49 12 VSS 6.08902e-17
Rg48 12 12#7 293.052429 $W=0.15
Rg49 12#7 12#8 7.376061 $W=0.33
Rg50 12#7 MX33/M0#g 479.425751 $W=0.15
Rf51 MX43/M0#d 12#10 25.917646 $W=0.17
Rf52 12#11 MX45/M0#d 18.764706 $W=0.17
Rf53 12#8 12#14 177.917648 $W=0.17
Re54 12#10 12#14 153.843491 $W=0.23
Re55 12#14 12#11 154.006531 $W=0.23
Rmw56 MX44/M0#d MX45/M0#d 0.001000 $W=1000000
Rmw57 MX37/M0#g 12 0.001000 $W=1000000
Rmw58 MM2#s MX43/M0#d 0.001000 $W=1000000
*
*|NET 16 9.99062e-16
*|I (MX42/M0#g MX42/M0 g X 0 5.7200 0.9700)
*|I (MX34/M0#d MX34/M0 d X 0 4.7395 0.8025)
*|I (MX41/M0#g MX41/M0 g X 0 5.7900 2.9850)
*|I (MX38/M0#d MX38/M0 d X 0 4.9605 3.2375)
*|I (MM3#s MM3 s X 0 5.2395 3.2375)
*|S (16 5.7800 1.6650)
*|S (16#8 4.6000 0.8000)
*|S (16#10 5.1000 3.2700)
*|S (16#13 5.1000 1.6650)
C50 MX38/M0#d VSS 9.77644e-17
C51 MX41/M0#g VSS 8.45151e-17
C52 MX42/M0#g VSS 7.17123e-17
C53 16#8 VSS 2.20017e-16
C54 16#13 VSS 2.67649e-16
C55 16#10 VSS 1.64471e-16
C56 16 VSS 9.29339e-17
Rg59 MX41/M0#g 16 405.319092 $W=0.15
Rg60 16 MX42/M0#g 209.209274 $W=0.15
Rf61 16#8 MX34/M0#d 15.000000 $W=0.17
Rf62 16#10 MX38/M0#d 17.635294 $W=0.17
Rf63 16 16#13 218.199997 $W=0.17
Re64 16#10 16#13 152.872284 $W=0.23
Re65 16#13 16#8 152.673752 $W=0.23
Rmw66 MM3#s MX38/M0#d 0.001000 $W=1000000
*
*|NET 24 1.12045e-16
*|I (MX45/M0#s MX45/M0 s X 0 1.2595 0.8025)
*|I (MX30/M0#d MX30/M0 d X 0 0.9805 0.8025)
*|S (24 1.1200 0.8000)
C57 24 VSS 1.12045e-16
Rmw67 MX45/M0#s 24 0.001000 $W=1000000
Rmw68 MX30/M0#d 24 0.001000 $W=1000000
*
*|NET 26 1.0982e-16
*|I (MX44/M0#s MX44/M0 s X 0 1.8405 0.8025)
*|I (MX31/M0#d MX31/M0 d X 0 2.1195 0.8025)
*|S (26 1.9800 0.8000)
C58 26 VSS 1.0982e-16
Rmw69 MX44/M0#s 26 0.001000 $W=1000000
Rmw70 MX31/M0#d 26 0.001000 $W=1000000
*
*|NET 32 9.97764e-17
*|I (MX34/M0#s MX34/M0 s X 0 4.8905 0.8025)
*|I (MM0#s MM0 s X 0 5.1695 0.8025)
*|S (32 5.0300 0.8000)
C59 32 VSS 9.97764e-17
Rmw71 MX34/M0#s 32 0.001000 $W=1000000
Rmw72 MM0#s 32 0.001000 $W=1000000
*
*|NET 34 1.41564e-16
*|I (MX35/M0#d MX35/M0 d X 0 2.1195 3.2375)
*|I (MM2#d MM2 d X 0 1.8405 3.2375)
*|S (34 1.9800 3.2350)
C60 34 VSS 1.41564e-16
Rmw73 MX35/M0#d 34 0.001000 $W=1000000
Rmw74 MM2#d 34 0.001000 $W=1000000
*
*|NET 42 1.39809e-16
*|I (MX43/M0#s MX43/M0 s X 0 1.2595 3.2375)
*|I (MM1#d MM1 d X 0 0.9805 3.2375)
*|S (42 1.1200 3.2350)
C61 42 VSS 1.39809e-16
Rmw75 MX43/M0#s 42 0.001000 $W=1000000
Rmw76 MM1#d 42 0.001000 $W=1000000
*
*Instance Section
*
MX45/M0	MX45/M0#d	MX45/M0#g	MX45/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX44/M0	MX44/M0#d	MX44/M0#g	MX44/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX42/M0	MX42/M0#d	MX42/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=7.6e-07
MX39/M0	MX39/M0#d	MX39/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX34/M0	MX34/M0#d	MX34/M0#g	MX34/M0#s	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX33/M0	MX33/M0#d	MX33/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX32/M0	MX32/M0#d	MX32/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX31/M0	MX31/M0#d	MX31/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MX30/M0	MX30/M0#d	MX30/M0#g	VSS	VSS	nfet_01v8
+ L=1.5e-07	W=4.25e-07
MM0	VSS	MM0#g	MM0#s	VSS	nfet_01v8	L=1.5e-07
+ W=4.25e-07
MX43/M0	MX43/M0#d	MX43/M0#g	MX43/M0#s	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX41/M0	MX41/M0#d	MX41/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=1.13e-06
MX40/M0	MX40/M0#d	MX40/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX38/M0	MX38/M0#d	MX38/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX37/M0	MX37/M0#d	MX37/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX36/M0	MX36/M0#d	MX36/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MX35/M0	MX35/M0#d	MX35/M0#g	VDD	VDD	pfet_01v8
+ L=1.5e-07	W=6.25e-07
MM1	MM1#d	MM1#g	VDD	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM2	MM2#d	MM2#g	MM2#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
MM3	VDD	MM3#g	MM3#s	VDD	pfet_01v8	L=1.5e-07
+ W=6.25e-07
.ENDS
